US05710301
Synthesis of n-hexyl(2-ethylbutyl)dichlorosilane.
Anhydrous diethyl ether (100 mL) was put into a reactor with magnesium (5.0 g, 0.21 mol) which had been dehydrated and deaerated, followed by charging of argon gas. A small amount of iodine was slowly added to the mixture. 2-Ethylbutylbromide (29.5 g, 0.18 mol) was added dropwise to the slowly stirred mixture so that the reaction mixture was gradually refluxed. After the reaction was complete, the obtained Grignard reagent was transferred to a dropping funnel. The Grignard reagent was added dropwise to a solution being stirred containing n-hexyltrichlorosilane (38 g, 0.17 mol) in anhydrous tetrahydrofuran (100 mL) in another reactor which had been dehydrated and deaerated, followed by charging of argon gas, at 60° C.-70° C. The reaction mixture was then stirred overnight at room temperature. Hexane (500 mL) was added to the reaction mixture, and the resulting mixture was filtered under pressure, followed by fractional distillation of the filtrate to provide the desired product.

reactant | magnesium | 0.21 mol, 5.0 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-Ethylbutylbromide | 0.18 mol, 29.5 g | C(C)C(CBr)CC | C6H13Br
reactant | n-hexyltrichlorosilane | 0.17 mol, 38 g | C(CCCCC)[Si](Cl)(Cl)Cl | C6H13Cl3Si
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Hexane | 500 mL | CCCCCC | C6H14
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | n-hexyl(2-ethylbutyl)dichlorosilane | C(CCCCC)[Si](Cl)(Cl)CC(CC)CC | C12H26Cl2Si
